US09079880B2
Dissolve 4-((R)-3-hydroxy-pyrrolidin-1-yl)-benzonitrile (188 mg, 1.00 mmol), triphenylphosphine (393 mg, 1.50 mmol) and 3-hydroxy-benzoic acid methyl ester (228 mg, 1.5 mmol) into 10 mL of dry THF under Ar. Cooled to 4° C. Add DEAD (0.26 mL, 1.50 mmol) in a drop-wise fashion. Stir mixture with warming to room temperature overnight. LC-MS analysis indicates the desired intermediate. Concentrate the mixture to dryness. Dissolve residue into CH2Cl2 and apply to a 2 mm SiO2 prep plate. Elute with 50% EtOAc/hexanes to give 113 mg of slightly impure 3-[(S)-1-(4-cyano-phenyl)-pyrrolidin-3-yloxy]-benzoic acid methyl ester.

reactant | 4-((R)-3-hydroxy-pyrrolidin-1-yl)-benzonitrile | 1.00 mmol, 188 mg | O[C@H]1CN(CC1)C1=CC=C(C#N)C=C1 | C11H12N2O
reactant | triphenylphosphine | 1.50 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-hydroxy-benzoic acid methyl ester | 1.5 mmol, 228 mg | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | DEAD | 1.50 mmol, 0.26 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[(S)-1-(4-cyano-phenyl)-pyrrolidin-3-yloxy]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)O[C@@H]1CN(CC1)C1=CC=C(C=C1)C#N)=O | C19H18N2O3
